US06262045B1
10.8. 8-Fluoro-N,N-dimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide
A suspension of 1.7 g (10.5 mmol) of 1,1′-carbonylbis-1H-imidazole and of 3 g (8.9 mmol) of 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid in 300 ml of tetrahydrofuran is stirred at 40° C. for 3 h. The mixture is cooled to room temperature, 10 ml of liquefied dimethylamine are added and the mixture is stirred for 2 h. After standing overnight, 300 ml of water are added and the precipitate is collected by filtration and recrystallized from dimethylformamide. 0.8 g (2.2 mmol) of solid is obtained.

reactant | 1,1′-carbonylbis-1H-imidazole | 10.5 mmol, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetic acid | 8.9 mmol, 3 g | FC1=CC=2C3=C(NC2C=C1)C(N(N=C3CC(=O)O)C3=CC=CC=C3)=O | C18H12FN3O3
reactant | dimethylamine | 10 ml | CNC | C2H7N
reactant | water | 300 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 8-Fluoro-N,N-dimethyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-acetamide | 2.2 mmol, 0.8 g | FC1=CC=2C3=C(NC2C=C1)C(N(N=C3CC(=O)N(C)C)C3=CC=CC=C3)=O | C20H17FN4O2
